US08492582B2
Pyridine (0.034 mL) and acetic anhydride (0.034 mL) were sequentially added to a methylene chloride (0.54 mL) solution of 5-tert-butylsalicylic acid (0.054 g), followed by stirring at room temperature for 2 hours. The solvent was evaporated under reduced pressure, and 1 mol/L hydrochloric acid and ethyl acetate were added to the residue. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 100-90% chloroform/methanol] to obtain 0.049 g of 2-acetoxy-5-tert-butylbenzoic acid as a white solid.

reactant | Pyridine | 0.034 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.034 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-tert-butylsalicylic acid | 0.054 g | C(C)(C)(C)C1=CC=C(C(C(=O)O)=C1)O | C11H14O3
solvent | methylene chloride | 0.54 mL | C(Cl)Cl | CH2Cl2
product | 2-acetoxy-5-tert-butylbenzoic acid | 0.049 g | C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)C(C)(C)C | C13H16O4
